US20010027196A1
To a stirred solution of 5.0 g (27.4 mmol) ethyl beta-oxo-2-furanpropionate in 15 ml dry THF under argon at −78° C. was added dropwise 27.4 ml (27.4 mmol, 1M solution in THF) lithium bis(trimethylsilyl)amide and stirring continued for 15 minutes at −78° C. 5.44 ml (87.4 mmol) methyl iodide was then added dropwise and stirring continued for 30 minutes at −78° C., 2.5 hours at 0° C. and 20 hours at room temperature. The reaction mixture was poured into 100 ml 1M hydrochloric acid at 0° C. and the phases separated. The aqueous phase was extracted twice with ether and the combined organic extracts washed with brine, dried over sodium sulfate, and concentrated in vacuo. Chromatography (ethyl acetate/hexane 1/3) afforded 4.42 g (82%) (RS)-3-furan-2-yl-2-methyl-3-oxo-propionic acid ethyl ester as a yellow oil. EI-MS m/e (%): 196 (M+, 10), 168 ([M—C2H4]+, 6), 151 ([M—OEt]+, 7), 95 (100).

reactant | ethyl beta-oxo-2-furanpropionate | 27.4 mmol, 5.0 g | O=C(CC(=O)OCC)C=1OC=CC1 | C9H10O4
reactant | lithium bis(trimethylsilyl)amide | 27.4 mmol, 1M, 27.4 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | methyl iodide | 87.4 mmol, 5.44 ml | CI | CH3I
reactant | hydrochloric acid | 1M, 100 ml | Cl | ClH
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | (RS)-3-furan-2-yl-2-methyl-3-oxo-propionic acid ethyl ester | 4.42 g, 82% | C(C)OC(C(C(=O)C=1OC=CC1)C)=O | C10H12O4
